US07767672B2
2-methyl-6-(2-(2-methylquinolin-6-yl)disulfanyl)quinoline
To a stirred slurry of 4-aminophenyl disulfide (5.0 g, 0.02 mol) in refluxing 6M HCl (65 ml) was added crotonaldehyde (4.2 g, 0.06 mol) dropwise over 90 minutes. The resulting mixture was refluxed for an additional 2 hours, then cooled to ambient. Conc aqueous ammonia was added to adjust the pH to neutral and the mixture extracted with ethyl acetate. The combined extracts were washed with water, then saturated aqueous brine, dried (MgSO4), filtered and concentrated. The crude was purified on silica gel, eluting with 50 to 100% ethyl acetate/petrol. The product was an oil (2.57 g, 37%); MS ES+ 349.17.

reactant | 4-aminophenyl disulfide | 0.02 mol, 5.0 g | NC1=CC=C(C=C1)SSC1=CC=C(C=C1)N | C12H12N2S2
reactant | HCl | 6M, 65 ml | Cl | ClH
reactant | crotonaldehyde | 0.06 mol, 4.2 g | C(\C=C\C)=O | C4H6O
reactant | ammonia | N | H3N
product | 2-methyl-6-(2-(2-methylquinolin-6-yl)disulfanyl)quinoline | CC1=NC2=CC=C(C=C2C=C1)SSC=1C=C2C=CC(=NC2=CC1)C | C20H16N2S2
